US04713486
Ethyl 4-[2-(1-octynyl)-phenoxy]-butanoate
A solution of ethyl 4-[2-(1,2-dibromooctyl)-phenoxy]butanoate, (2.01 g, 4.20 mmole), potassium t-butoxide, (1.33 g, 11.1 mmole) and 18 crown6 (5 mg) in dry dimethylsulphoxide (25 ml) was stirred at ambient temperature for 4 h, then at 100° C. for 15 h. The reaction was evaporated in vacuo to a low volume, poured into saturated brine and acidified with dilute hydrochloric acid. The product was extracted with ethyl acetate (three times) and the combined organic phases washed with water (three times), and dried, (MgSO4). Evaporation in vacuo yielded the crude product as a pale brown oil, which was purified by column chromatography using silica gel and eluting with dichloromethane/petroleum ether 60°-80° C., (1:1). The intermediate bromoalkane was collected first, followed by 0.380 g (29%) of the acetylene as a colourless oil.

reactant | ethyl 4-[2-(1,2-dibromooctyl)-phenoxy]butanoate | 4.20 mmole, 2.01 g | BrC(C(CCCCCC)Br)C1=C(OCCCC(=O)OCC)C=CC=C1 | C20H30Br2O3
reactant | potassium t-butoxide | 11.1 mmole, 1.33 g | CC(C)([O-])C.[K+]
solvent | dimethylsulphoxide | 25 ml | CS(=O)C | C2H6OS
product | Ethyl 4-[2-(1-octynyl)-phenoxy]-butanoate | C(#CCCCCCC)C1=C(OCCCC(=O)OCC)C=CC=C1 | C20H28O3
